US07456205B2
7-[2-(N-tert-butoxycarbonyl-N-methylamino)ethoxyl]-2-oxo-2H-1-benzopyran-3-carboxylic acid methyl ester (compound 15)
2-(N-tert-butoxycarbonyl-N-methylamino)ethanol (0.5 g, 3 mmol) and 7-hydroxyl-3-coumarin carboxylic acid methyl ester (0.6 g, 3 mmol) are dissolved in 60 mL of anhydrous tetrahydrofuran. Triphenylphosphine (1.2 g, 4.5 mmol) is added, and diethyl azodicarboxylate (720 μL, 0.45 mmol) is added dropwise and slowly at 0° C. The resulting solution is stirred at room temperature for 24 hours. After the solvent was removed under reduced pressure at 30° C., the residue is mixed with methanol at room temperature. A solid is produced by filtrating under reduced pressure and 0.83 g of the captioned compound is obtained, yield: 72.6%. m.p. 128-129° C. 1H NMR(DMCO-d6): δ=1.40(s, 9H), 2.96(s, 3H), 3.65(s, 2H), 3.81(s, 3H), 4.32(s, 2H), 6.94(d, J=2.2 Hz, 1H), 7.00(dd, J=2.2 Hz, 8.4 Hz, 1H), 7.80(d, J=8.8 Hz, 1H), 8.60 (s,1H); EI-MS(m/z): 377(1, M+), 102(100).

reactant | 2-(N-tert-butoxycarbonyl-N-methylamino)ethanol | 3 mmol, 0.5 g | C(C)(C)(C)OC(=O)N(C)CCO | C8H17NO3
reactant | 7-hydroxyl-3-coumarin carboxylic acid methyl ester | 3 mmol, 0.6 g | COC(=O)C=1C(OC2=CC(=CC=C2C1)O)=O | C11H8O5
reactant | Triphenylphosphine | 4.5 mmol, 1.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.45 mmol, 720 μL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | 7-[2-(N-tert-butoxycarbonyl-N-methylamino)ethoxyl]-2-oxo-2H-1-benzopyran-3-carboxylic acid methyl ester | 0.83 g, yield: 72.6% | COC(=O)C=1C(OC2=C(C1)C=CC(=C2)OCCN(C)C(=O)OC(C)(C)C)=O | C19H23NO7
